US08445515B2
2,2-Dimethylpropylmagnesium chloride (1 M-diethylether, 4.8 mL, 4.8 mmol) was added to a suspension of copper cyanide (215 mg, 2.40 mmol) in THF (6 mL) at −78° C. After stirring at the same temperature for 1 hour, 2-bromo-N-(3-tert-butylphenyl)nicotinamide (200 mg, 0.601 mmol) was added all at once as a solid. The reaction mixture was gradually warmed to room temperature and the reaction was allowed to stir overnight. Saturated ammonium chloride solution and ethyl acetate was added, and the reaction mixture was filtered through celite and rinsed with ethyl acetate. The layers were separated and the product was extracted once more with ethyl acetate. The combined organic layers were washed with brine and dried over anhydrous sodium sulfate. After removing the solvent under reduced pressure, the crude material was purified using silica gel column chromatography using a gradient of 20%-50% ethyl acetate in hexanes to yield N-(3-tert-butylphenyl)-2-(2,2-dimethylpropyl)nicotinamide (168 mg, 0.517 mmol, 86%). Rf=0.45 (toluene:ethyl acetate=2:1).

reactant | 2,2-Dimethylpropylmagnesium chloride | 4.8 mmol, 4.8 mL | CC(C[Mg]Cl)(C)C
reactant | copper cyanide | 2.40 mmol, 215 mg | [Cu](C#N)C#N
reactant | 2-bromo-N-(3-tert-butylphenyl)nicotinamide | 0.601 mmol, 200 mg | BrC1=C(C(=O)NC2=CC(=CC=C2)C(C)(C)C)C=CC=N1 | C16H17BrN2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(3-tert-butylphenyl)-2-(2,2-dimethylpropyl)nicotinamide | 0.517 mmol, 168 mg, 86% | C(C)(C)(C)C=1C=C(C=CC1)NC(C1=C(N=CC=C1)CC(C)(C)C)=O | C21H28N2O
